US07655666B2
2-Amino-4-trifluoromethyl-5-(2-isopropyl-2H-pyrazol-3-yl)-benzoic acid methyl ester
To a solution of 2-amino-4-trifluoromethyl-5-iodo-benzoic acid methyl ester (1.56 g, 4.52 mmol) in dioxane (40 mL) were added 1-isopropyl-5-tributylstannanyl-1H-pyrazole (2.34 g, 1.3 eq) and Pd(dppf)2Cl2 (369 mg, 0.1 eq) and the resulting mixture was stirred at 100° C. for 18 h. A second portion of catalyst (0.1 eq) was added and the mixture was stirred at 100° C. for 24 h. A last portion of catalyst (0.1 equiv) was added and the mixture was kept at 100° C. for 72 h. The solvent was removed in vacuo to provide a dark oil which was purified by flash chromatography (silica gel, EtOAc/hexanes (0:100 to 50:50)) to give the title compound (666 mg, 45%) as an off-white solid (ES-MS: m/z 328.3 [M+H]+, rt 5.60 min).

reactant | 2-amino-4-trifluoromethyl-5-iodo-benzoic acid methyl ester | 4.52 mmol, 1.56 g | COC(C1=C(C=C(C(=C1)I)C(F)(F)F)N)=O | C9H7F3INO2
reactant | 1-isopropyl-5-tributylstannanyl-1H-pyrazole | 2.34 g, 1.3 eq | C(C)(C)N1N=CC=C1[Sn](CCCC)(CCCC)CCCC
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)2Cl2 | 369 mg, 0.1 eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-Amino-4-trifluoromethyl-5-(2-isopropyl-2H-pyrazol-3-yl)-benzoic acid methyl ester | 666 mg, 45% | COC(C1=C(C=C(C(=C1)C=1N(N=CC1)C(C)C)C(F)(F)F)N)=O | C15H16F3N3O2
